US06436914B1
A solution of (S)-2-hydroxy-3-(4-hydroxy-3-nitrophenyl)propanoic acid (9.2 g, 41 mmol) in 150 mL of methanol was hydrogenated, after addition of 0.5 g of 10% palladium on carbon, for 24 h at 45 psi using a Parr shaker. After filtration through Celite under a blanket of nitrogen gas, the volatiles were removed using a rotary evaporator. The flask was flushed with nitrogen before addition of 30 mL of dry pyridine. Once the stirred suspension formed a homogeneous solution, the flask was cooled-under nitrogen to −20° and methanesulfonyl chloride (5.0 g, 44 mmol) was added over 5 min. After stirring for 1 h at −20°, the flask was placed in a −12° freezer for 24 h. To quench the reaction, 50 mL of water was added and the volatiles were removed using a rotary evaporator with a bath temperature of 50°. A second 50 mL portion of water was added and removed as previously described. The resultant crude red oil was chromatographed on Mitsubishi Chemical Industries CHP-20P resin (75-150 micron) using 15-25% methanol/water to elute the product. After evaporative removal of methanol, the residual solution was lyophilized to yield 6.8 g (63%) of (S)-2-hydroxy-3-(4-hydroxy-3-(methylsulfonyl)aminophenyl)propanoic acid.

reactant | (S)-2-hydroxy-3-(4-hydroxy-3-nitrophenyl)propanoic acid | 41 mmol, 9.2 g | O[C@H](C(=O)O)CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C9H9NO6
reactant | methanesulfonyl chloride | 44 mmol, 5.0 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | (S)-2-hydroxy-3-(4-hydroxy-3-(methylsulfonyl)aminophenyl)propanoic acid | 6.8 g, 63% | O[C@H](C(=O)O)CC1=CC(=C(C=C1)O)NS(=O)(=O)C | C10H13NO6S
